US08278441B2
N-(4-(tert-Butyldimethylsilyloxy)-2-(hydroxymethyl)-1-(3′-methoxybiphenyl-3-yl)cyclopentylcarbamothioyl)benzamide
A solution of (2-amino-4-(tert-butyldimethylsilyloxy)-2-(3′-methoxybiphenyl-3-yl)cyclopentyl)methanol (9.44 g, 22.1 mmol) and benzoyl isothiocyanate (3.49 g, 21.0 mmol) in THF (88 mL) is stirred for 1.5 hours at room temperature and concentrated under reduced pressure. The crude product is purified by silica gel chromatography eluting with a linear gradient of 0% to 5% methanol in dichloromethane over 27 minutes to give the title compound (9.61 g, 70%). ES/MS m/e: 589 (M−1).

reactant | (2-amino-4-(tert-butyldimethylsilyloxy)-2-(3′-methoxybiphenyl-3-yl)cyclopentyl)methanol | 22.1 mmol, 9.44 g | NC1(C(CC(C1)O[Si](C)(C)C(C)(C)C)CO)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C25H37NO3Si
reactant | benzoyl isothiocyanate | 21.0 mmol, 3.49 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 88 mL | C1CCOC1 | C4H8O
product | N-(4-(tert-Butyldimethylsilyloxy)-2-(hydroxymethyl)-1-(3′-methoxybiphenyl-3-yl)cyclopentylcarbamothioyl)benzamide | 9.61 g, 70% | [Si](C)(C)(C(C)(C)C)OC1CC(C(C1)(C=1C=C(C=CC1)C1=CC(=CC=C1)OC)NC(=S)NC(C1=CC=CC=C1)=O)CO | C33H42N2O4SSi
